US07427613B2
Cyclopropyl-[2-(4-fluorophenyl)ethyl]amine
Synthesized according to typical procedures C and D from (4-fluorophenyl)acetic acid and cyclopropylamine.

reactant | (4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-[2-(4-fluorophenyl)ethyl]amine | C1(CC1)NCCC1=CC=C(C=C1)F | C11H14FN
